US06849639B2
Step B: 3-({5-oxo-1-(3-(1,3-thiazolin-2-ylamino)phenyl)pyrrolidin-3-yl}carbonylamino)-3-(3-pyridyl)propanoic acid
A solution of ethyl 3-({5-oxo-1-(3-(1,3-thiazolin-2-ylamino)phenyl)pyrrolidin-3-yl}carbonylamino)-3-(3-pyridyl)propanoate (75 mg, 0.16 mmol, 1.0 eq), THF (1.0 mL), and 1.0 N NaOH (0.16 mL, 1.0 eq) was stirred at room temperature overnight. The solvent was removed on rotary evaporator. The title compound was abstained as an off-white solid from preparative HPLC. 1H NMR (MeOH-d4, 400 MHz): δ 2.68-2.99 (m, 4), 3.35 (m, 1), 3.67 (m, 2), 4.05 (m, 4), 5.42 (m, 1), 7.16 (m, 1), 7.52 (m, 2), 7.78 (m, 1), 7.88 (s, 1), 8.28 (m, 1), 8.62 (m, 1), 8.75 (m, 1). MS (ES+): 455 (M+H)+; (ES−): 453 (M−H)−.

reactant | ethyl 3-({5-oxo-1-(3-(1,3-thiazolin-2-ylamino)phenyl)pyrrolidin-3-yl}carbonylamino)-3-(3-pyridyl)propanoate | 0.16 mmol, 75 mg, 1.0 eq | O=C1CC(CN1C1=CC(=CC=C1)NC=1SCCN1)C(=O)NC(CC(=O)OCC)C=1C=NC=CC1 | C24H27N5O4S
reactant | NaOH | 1.0 N, 0.16 mL, 1.0 eq | [OH-].[Na+]
solvent | THF | 1.0 mL | C1CCOC1 | C4H8O
product | 3-({5-oxo-1-(3-(1,3-thiazolin-2-ylamino)phenyl)pyrrolidin-3-yl}carbonylamino)-3-(3-pyridyl)propanoic acid | O=C1CC(CN1C1=CC(=CC=C1)NC=1SCCN1)C(=O)NC(CC(=O)O)C=1C=NC=CC1 | C22H23N5O4S
